US07759337B2
Trifluoroacetic anhydride (0.63 mL, 4.45 mmol) was added to a solution of 7-iodo-6-methylbenzo[d]isoxazol-3-amine (1.11 g, 4.05 mmol) in 10 mL of DCM. The mixture was stirred for 6 h. The volatiles were removed under reduced pressure to provide 2,2,2-trifluoro-N-(7-iodo-6-methylbenzo[d]isoxazol-3-yl)acetamide as an off white solid, which was used without further purification. MS (ESI, pos. ion) m/z: 370.9 (M+1).

reactant | Trifluoroacetic anhydride | 4.45 mmol, 0.63 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-iodo-6-methylbenzo[d]isoxazol-3-amine | 4.05 mmol, 1.11 g | IC1=C(C=CC=2C(=NOC21)N)C | C8H7IN2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(7-iodo-6-methylbenzo[d]isoxazol-3-yl)acetamide | FC(C(=O)NC1=NOC2=C1C=CC(=C2I)C)(F)F | C10H6F3IN2O2
